US08183275B2
1-Amino-4,4-dimethylhexan-2-ol
A mixture of 1-azido-4,4-dimethylhexan-2-ol (54.8 g, 320 mmol), 5% Pd/C (4 g) and ethanol (500 mL) were stirred under hydrogen (40 psi) for 2 days. The reaction mixture was filtered through Celite and the filtrate was concentrated to provide the title compound. 1H NMR (500 MHz, CDCl3) δ 3.61 (m, 1H), 2.77 (dd, J=12.5 Hz, J=3.4 Hz, 1H), 2.49 (dd, J=12.5 Hz, J=8.9 Hz, 1H), 2.00 (brs, 2H), 1.30 (m, 3H), 1.24 (dd, J=14.5 Hz, J=2.6 Hz, 1H), 0.92 (s, 3H), 0.90 (s, 3H), 0.83 (t, J=7.5 Hz, 3H).

reactant | 1-azido-4,4-dimethylhexan-2-ol | 320 mmol, 54.8 g | N(=[N+]=[N-])CC(CC(CC)(C)C)O | C8H17N3O
catalyst | Pd/C | 4 g | [Pd] | Pd
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | 1-Amino-4,4-dimethylhexan-2-ol | NCC(CC(CC)(C)C)O | C8H19NO
